US07790724B2
b) 4-[(4-Cyano-1H-imidazole-2-carbonyl)-amino]-3-(4,4-dimethyl-cyclohex-1-enyl)-benzoic acid
To a solution of 4-[(4-cyano-1H-imidazole-2-carbonyl)-amino]-3-(4,4-dimethyl-cyclohex-1-enyl)-benzoic acid ethyl ester (50 mg, 0.13 mmol) in 1 mL of EtOH was added a 2 N aqueous solution of KOH (0.20 mL, 0.10 mmol) and the mixture heated to 60° C. for 6 h. The pH was adjusted to 2 with 2 N aq TFA and the title compound was purified by RP-HPLC eluting with a linear gradient of 30% to 50% acetonitrile in 0.1% TFA/H2O over 10 min on a C18 column giving 40 mg (87%) of a white solid. 1H-NMR (CD3OD, 400 MHz): δ 8.48 (d, J=8.6 Hz, 1H), 8.04 (s, 1H), 7.96 (dd, J=8.6, 2.0 Hz, 1H), 7.85 (d, J=2.0 Hz, 1H), 5.85 (m, 1H), 2.40-2.32 (m, 2H), 2.17-2.13 (m, 2H), 1.66 (t, J=6.3 Hz, 2H), 1.15 (s, 6H). Mass spectrum (APCI, m/z): Calcd. for C20H20N4O3, 363.2 (M-H), found 363.4.

reactant | 4-[(4-cyano-1H-imidazole-2-carbonyl)-amino]-3-(4,4-dimethyl-cyclohex-1-enyl)-benzoic acid ethyl ester | 0.13 mmol, 50 mg | C(C)OC(C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C)=O | C22H24N4O3
reactant | KOH | 0.10 mmol, 0.20 mL | [OH-].[K+]
reactant | TFA | 2 N | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 1 mL | CCO | C2H6O
product | 4-[(4-Cyano-1H-imidazole-2-carbonyl)-amino]-3-(4,4-dimethyl-cyclohex-1-enyl)-benzoic acid | 40 mg, 87% | C(#N)C=1N=C(NC1)C(=O)NC1=C(C=C(C(=O)O)C=C1)C1=CCC(CC1)(C)C | C20H20N4O3
